US06962934B2
Preparation of N-[(2S)-3-(3,5-difluorophenyl)-2-({3-[(dipropylamino)carbonyl]-5-methylbenzoyl}amino)propyl]-L-alanyl-N1-isobutyl-L-valinamide
3-[(Dipropylamino)carbonyl]-5-methylbenzoic acid, (90 mg, 0.34 mmol) is combined with EDC(65 mg, 0.34 mmol) and HOBT (46 mg, 0.34 mmol) in 3 mL of DMF and stirred under nitrogen for 1 h. This solution is then added to a solution of N-[(2S)-2-amino-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide (88 mg, 0.21 mmol) in 1 mL of DMF. The reaction is continued for 3 days at ambient temperature. It is then quenched with 1 N KH2PO4 and diluted with ethyl acetate containing about 1% of methanol. The organic phase is washed with water, 1 N NaHCO3, and brine, and dried over Na2SO4. Concentration and chromatography over silica gel, eluting with 4% to 6% methanol in dichloromethane, affords 96 mg (0.146 mmol, 69%) of the title compound as a light tan solid. 1H NMR (CDCl3) δ 7.75 (d, J=9 Hz, 1H), 7.54 (s, 1H), 7.37 (s, 1H), 7.21 (s, 1H), 7.16 (d, J=8 Hz, 1H), 6.84 (m, 2H), 6.70 (m, 1H), 6.64 (m, 1H), 4.19 (dd, J=7, 9 Hz, 1H), 4.05 (m, 1H), 3.5-3.4 (m, 2H), 3.33 (dd, J=6, 14 Hz, 1H), 3.19-3.02 (m, 5H), 2.88 (dd, J=6, 14 Hz, 1H), 2.68 (dd, J=4, 13.5 Hz, 1H), 2.58 (m, 1H), 2.37 (s, 3H), 1.96 (m, 1H), 1.75-1.64 (m, 4H), 1.50 (m, 2H), 1.35 (d, J=7 Hz, 3H), 0.99 (t, J=7 Hz, 3H), 0.91 (d, J=7 Hz, 3H), 0.86 (m, 9H), 0.71 (t, J=7 Hz, 3H).

reactant | 3-[(Dipropylamino)carbonyl]-5-methylbenzoic acid | 0.34 mmol, 90 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C)CCC | C15H21NO3
reactant | EDC | 0.34 mmol, 65 mg
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-[(2S)-2-amino-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide | 0.21 mmol, 88 mg | N[C@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)CC1=CC(=CC(=C1)F)F | C21H34F2N4O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[(2S)-3-(3,5-difluorophenyl)-2-({3-[(dipropylamino)carbonyl]-5-methylbenzoyl}amino)propyl]-L-alanyl-N1-isobutyl-L-valinamide | 0.146 mmol, 96 mg, 69% | FC=1C=C(C=C(C1)F)C[C@@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)NC(C1=CC(=CC(=C1)C)C(=O)N(CCC)CCC)=O | C36H53F2N5O4
